US06313122B1
A. Methyl 4-Amino-3-[(4-tert-butylbenzoyl)amino]benzoate
Using the procedure described in Example 146, Part A, 4-tert-butylbenzoyl chloride (6.00 mmol) was reacted with methyl 3,4-diaminobenzoate dihydrochloride. As the product did not precipitate directly, the reaction mixture was concentrated in vacuo, diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate solution. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo to provide 0.885 g (44%) of the title compound as a crystalline solid.

reactant | 4-tert-butylbenzoyl chloride | 6.00 mmol | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | methyl 3,4-diaminobenzoate dihydrochloride | Cl.Cl.NC=1C=C(C(=O)OC)C=CC1N
product | Methyl 4-Amino-3-[(4-tert-butylbenzoyl)amino]benzoate | 0.885 g, 44% | NC1=C(C=C(C(=O)OC)C=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C19H22N2O3
